.SUBCKT BK8 
+ G8 P8 G7 P7 G6 P6 G5 P5 G4 P4 G3 P3 G2 P2 G1 P1 G0 
+ C0 C1 C2 C3 C4 C5 C6 C7 C8 Vdd Vss scale=1

V_C0 C0 G0  0                                         $ C0

Xlevel1_bit1 G1 P1 G0  G10          Vdd Vss GEN_BLOCK    scale=scale
V_C1 C1 G10 0                                         $ C1

Xlevel1_bit3 G3 P3 G2  P2 G32 P32   Vdd Vss GENPRO_BLOCK scale=scale
Xlevel1_bit5 G5 P5 G4  P4 G54 P54   Vdd Vss GENPRO_BLOCK scale=scale
Xlevel1_bit7 G7 P7 G6  P6 G76 P76   Vdd Vss GENPRO_BLOCK scale=scale

Xlevel2_bit3 G32 P32 G10 G30        Vdd Vss GEN_BLOCK    scale=scale
V_C3 C3 G30 0                                         $ C3

Xlevel2_bit7 G76 P76 G54 P54 G74 P74 Vdd Vss GENPRO_BLOCK scale=scale

Xlevel3_bit7 G74 P74 G30 G70        Vdd Vss GEN_BLOCK    scale=scale
V_C7 C7 G70 0                                         $ C7

Xlevel4_bit5 G54 P54 G30 G50        Vdd Vss GEN_BLOCK    scale=scale
V_C5 C5 G50 0                                         $ C5

Xlevel5_bit2 G2 P2 G10 G20          Vdd Vss GEN_BLOCK    scale=scale
V_C2 C2 G20 0                                         $ C2

Xlevel5_bit4 G4 P4 G30 G40          Vdd Vss GEN_BLOCK    scale=scale
V_C4 C4 G40 0                                         $ C4

Xlevel5_bit6 G6 P6 G50 G60          Vdd Vss GEN_BLOCK    scale=scale
V_C6 C6 G60 0                                         $ C6

Xlevel5_bit8 G8 P8 G70 G80          Vdd Vss GEN_BLOCK    scale=scale
V_C8 C8 G80 0                                         $ C8

.ENDS BK8
